US04364875
2-Chloro-4-nitro-3-phenoxy-1-(2,4,5-trichloro-phenoxy)benzene
A mixture of 28.4 gm of 2,3-dichloro-6-nitro-1-phenoxy-benzene, 21.6 gm of 2,4,5-trichloro-phenol, 10 ml of 10 N sodium hydroxide and 80 ml of dimethylsulfoxide was stirred for 6 hours at 100° C. Thereafter, the reaction mixture was admixed with 600 ml of 1 N sodium hydroxide, and the precipitated product was collected by suction filtration and recrystallized from 150 ml of ethanol. 31 gm (77.4% of theory) of the title compound, m.p. 112° C., were obtained. An additional amount of the product (about 6 gm) was obtained by evaporating the filtrate.

reactant | 2,3-dichloro-6-nitro-1-phenoxy-benzene | 28.4 gm | ClC1=C(C(=CC=C1Cl)[N+](=O)[O-])OC1=CC=CC=C1 | C12H7Cl2NO3
reactant | 2,4,5-trichloro-phenol | 21.6 gm | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
reactant | sodium hydroxide | 10 N, 10 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1 N, 600 ml | [OH-].[Na+]
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 2-Chloro-4-nitro-3-phenoxy-1-(2,4,5-trichloro-phenoxy)benzene | ClC1=C(C=CC(=C1OC1=CC=CC=C1)[N+](=O)[O-])OC1=C(C=C(C(=C1)Cl)Cl)Cl | C18H9Cl4NO4
